US08877772B2
Preparation of 5-(3,4,5-trimethoxy-phenyl)-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one (Intermediate BY)
A mixture of 5-bromo-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one (200 mg, 0.939 mmol), 3,4,5-trimethoxyphenylboronic acid (239 mg, 1.127 mmol) and dichlorobis(triphenylphosphine)palladium (II) (33 mg, 0.047 mmol) in CH3CN (5 ml) and 1 M Na2CO3 (5 ml) was heated in a microwave reactor for 10 min at 150° C. The reaction mixture was filtered, evaporated, partitioned between water and DCM and purified by silica gel chromatography with 0-10% MeOH:DCM to obtain 85 mg (30%) of compound #. 1H NMR (CDCl3/DMSO-d6, 300 MHz): δ 10.19 (bs, 1H), 8.18 (d, J=1.1 Hz, 1H), 7.54 (s, 1H), 6.57 (s, 2H), 3.80 (s, 6H), 3.75 (s, 3H), 3.47 (s, 2H).

reactant | 5-bromo-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | 0.939 mmol, 200 mg | BrC=1C=C2C(=NC1)NC(C2)=O | C7H5BrN2O
reactant | 3,4,5-trimethoxyphenylboronic acid | 1.127 mmol, 239 mg | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
solvent | CH3CN | 5 ml | CC#N | C2H3N
solvent | Na2CO3 | 1 M, 5 ml | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | dichlorobis(triphenylphosphine)palladium | 0.047 mmol, 33 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-(3,4,5-trimethoxy-phenyl)-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | 85 mg, 30% | COC=1C=C(C=C(C1OC)OC)C=1C=C2C(=NC1)NC(C2)=O | C16H16N2O4
